US08106190B2
4-Chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-[(piperidin-2-ylmethyl)amino]benzamide hydrochloride (100 mg) was dissolved in a mixed solution of acetic acid (3 mL) and methanol (2 mL), and 1 ml of formaldehyde aqueous solution (36%) was added thereto. Sodium triacetoxyborohydride (252 mg) was added to this solution at 0° C., followed by stirring at room temperature for 30 minutes. After concentration under a reduced pressure, this was made basic by adding a saturated sodium bicarbonate aqueous solution, followed by extraction with chloroform. After drying the organic layer with magnesium sulfate, the solvent was evaporated under a reduced pressure. By purifying the residue by silica gel column chromatography (chloroform:methanol, 10:1) and treating the resulting free base with 4 M hydrogen chloride/ethyl acetate solution, 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1-methylpiperidin-2-yl)methyl]amino}benzamide hydrochloride (45 mg) was obtained as a solid.

reactant | 4-Chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-[(piperidin-2-ylmethyl)amino]benzamide hydrochloride | 100 mg | Cl.ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NCC1NCCCC1
reactant | Sodium triacetoxyborohydride | 252 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
solvent | formaldehyde | 1 ml | C=O | CH2O
product | 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1-methylpiperidin-2-yl)methyl]amino}benzamide hydrochloride | 45 mg | Cl.ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NCC1N(CCCC1)C | InChI=1S/C24H29ClN4O2.ClH/c1-28-12-4-3-5-19(28)15-26-21-13-17(25)8-10-20(21)24(31)27-18-9-6-16-7-11-23(30)29(2)22(16)14-18;/h6,8-10,13-14,19,26H,3-5,7,11-12,15H2,1-2H3,(H,27,31);1H
